US04994477
dl-β-(4-Thiazolyl)alanine Methyl Ester Dihydrochloride
A solution of 0.50 g (2.04 mmol) of dl-β-(4-Thiazolyl)alanine dihydrochloride (dl connotes a 50/50 mixture of dextrorotatory and levorotatory isomers) in 9 ml of methanol was cooled to 0° C. and treated with 0.21 ml (2.86 mmol) of thionyl chloride. The resulting solution was heated at 55° C. for 16 h. Removal of the solvent in vacuo gave 0.56 g (99%) of the desired compound as a white solid. Mass spectrum: (M+H)+ =187.

reactant | β-(4-Thiazolyl)alanine dihydrochloride | Cl.Cl.S1C=NC(=C1)C[C@H](N)C(=O)O
reactant | thionyl chloride | 2.86 mmol, 0.21 ml | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 9 ml | CO | CH4O
product | β-(4-Thiazolyl)alanine Methyl Ester Dihydrochloride | 0.56 g, 99% | Cl.Cl.COC([C@@H](N)CC=1N=CSC1)=O | InChI=1S/C7H10N2O2S.2ClH/c1-11-7(10)6(8)2-5-3-12-4-9-5;;/h3-4,6H,2,8H2,1H3;2*1H/t6-;;/m0../s1
